US07776910B2
A solution of n-tetrabutylammoniumfluoride (1.0 M in THF, 0.593 mL, 0.59 mmol), was added to a solution of (S)-3-{4-[4-(tert-butyl-dimethyl-silanyloxy)-benzenesulfonyl]-phenyl}-1-methyl-pyrrolidine (242 mg, 0.561 mmol) in THF (2 mL) at 0-5° C. under argon atmosphere. The reaction mixture was stirred at 0-5° C. for 1 hour and then concentrated under reduced pressure. The crude residue was purified by preparative TLC (DCM/MeOH/NH4OH) to give 122 mg of 4-[4-((S)-1-methyl-pyrrolidin-3-yl)-benzenesulfonyl]-phenol. The amine (119 mg) was dissolved in isopropanol (2 mL) and was treated with HCl (4 M in 1,4-dioxane, 0.12 mL, 0.487 mL) under nitrogen atmosphere. The mixture was stirred for one hour and the white solid formed was collected by filtration, washed with isopropanol and dried under reduced pressure to give 63 mg of 4-[4-((S)-1-methyl-pyrrolidin-3-yl)-benzenesulfonyl]-phenol hydrochloride, MP=197-199° C.

reactant | (S)-3-{4-[4-(tert-butyl-dimethyl-silanyloxy)-benzenesulfonyl]-phenyl}-1-methyl-pyrrolidine | 0.561 mmol, 242 mg | C(C)(C)(C)[Si](OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)[C@H]1CN(CC1)C)(C)C | C23H33NO3SSi
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[4-((S)-1-methyl-pyrrolidin-3-yl)-benzenesulfonyl]-phenol | 122 mg | CN1C[C@@H](CC1)C1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O | C17H19NO3S
